US07439237B2
(4a) methyl (E)-2-acetylamino-3-(4-amino-3-chloro-5-methyl-phenyl)-acrylate
Under protective nitrogen gas 2.02 g (9.0 mmol) palladium(II)acetate and 2.82 g (9.0 mmol) tri-o-tolylphosphine were added to a mixture of 25.0 g (113 mmol) 4-bromo-2-chloro-6-methyl-aniline, 19.9 g (136 mmol) methyl 2-acetamidoacrylate, 350 ml triethylamine and 150 ml acetonitrile at ambient temperature. The reaction mixture was stirred for 18 hours at 80° C., evaporated down under reduced pressure, the residue was combined with 600 ml dichloromethane and water and filtered off from the insoluble precipitate. The organic phase was dried over sodium sulphate, evaporated down under reduced pressure and then combined with 200 ml of ethyl acetate/cyclohexane (3/1). The insoluble fraction was suction filtered and the mother liquor was purified by column chromatography through silica gel. The corresponding fractions were evaporated down under reduced pressure and combined with the insolublen fraction suction filtered previously.

reactant | tri-o-tolylphosphine | 9.0 mmol, 2.82 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | 4-bromo-2-chloro-6-methyl-aniline | 113 mmol, 25.0 g | BrC1=CC(=C(N)C(=C1)C)Cl | C7H7BrClN
reactant | methyl 2-acetamidoacrylate | 136 mmol, 19.9 g | C(C)(=O)NC(C(=O)OC)=C | C6H9NO3
reactant | triethylamine | 350 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | methyl (E)-2-acetylamino-3-(4-amino-3-chloro-5-methyl-phenyl)-acrylate | C(C)(=O)N\C(\C(=O)OC)=C\C1=CC(=C(C(=C1)C)N)Cl | C13H15ClN2O3
